US04442115
A solution of tributyltin azide (6.65 g) and ethyl cyanoformate (1.98 g) in dry benzene (25 ml) was heated at reflux for 48 hours. The benzene was removed under reduced pressure and the residue was dissolved in an excess quantity of a dry solution of hydrogen chloride in ethanol. The mixture was allowed to stand, and then the ethanol was removed in vacuo on the rotary evaporator to give a red oil. Chromatography of this oil on a column of silica gel, eluting with a mixture of methanol and chloroform (1:9 v/v), gave ethyl tetrazole-5-carboxylate, identical with samples prepared by the other methods as described above.

reactant | tributyltin azide | 6.65 g | C(CCC)[Sn](CCCC)(CCCC)N=[N+]=[N-]
reactant | ethyl cyanoformate | 1.98 g | C(#N)C(=O)OCC | C4H5NO2
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
product | ethyl tetrazole-5-carboxylate | N1N=NN=C1C(=O)OCC | C4H6N4O2
